US04496741
The acidic decarboxylation is conducted under mild conditions. For example, 5-benzoyl-7-hydroxycarbonyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-caboxylic acid is treated with refluxing trifluoroacetic acid to afford 5-benzoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid. Other acids may also be used. For example, those listed below in Table I.

reactant | 5-benzoyl-7-hydroxycarbonyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-caboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC(=C2N1CCC2C(=O)O)C(=O)O | C16H13NO5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 5-benzoyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=CC=C2N1CCC2C(=O)O | C15H13NO3
